US07112611B2
Stage 1.1: (4-Dimethylamino-benzylamino)-acetic acid methyl ester
To a solution of 50 g (335 mmol) of 4-aminobenzaldehyde in 1000 ml of CH2Cl2, 67.3 g (536 mmol) of glycine methylester hydrochloride, 182 ml (1305 mmol) of triethylamine and 70 g of MgSO4 are successively added at 0–5° C. The mixture is stirred at r.t. for 18 h and filtered through celite. The filtrate is concentrated under reduced pressure and the residue is diluted with AcOEt. Et3N-hydrochloride is filtered off and the filtrate is concentrated under reduced pressure in an azeotropic manner using toluene to give crude imine. To a solution of the crude imine in 500 ml of THF and 500 ml of MeOH, 18 g (475 mmol) of NaBH4 is added portionwise at −20˜−10° C. and the mixture is stirred for 1 h. The reaction mixture is slowly quenched with sat. aqueous NH4Cl and then extracted with CH2Cl2. The combined extracts are washed with H2O, brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by CC on silica gel (n-Hexane:AcOEt=5:1˜1:1) to provide the title compound as pale yellow oil.

reactant | 4-aminobenzaldehyde | 335 mmol, 50 g | NC1=CC=C(C=O)C=C1 | C7H7NO
reactant | glycine methylester hydrochloride | 536 mmol, 67.3 g | Cl.COC(CN)=O
reactant | triethylamine | 1305 mmol, 182 ml | C(C)N(CC)CC | C6H15N
reactant | MgSO4 | 70 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | NaBH4 | 475 mmol, 18 g | [BH4-].[Na+]
solvent | CH2Cl2 | 1000 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | MeOH | 500 ml | CO | CH4O
product | (4-Dimethylamino-benzylamino)-acetic acid methyl ester | COC(CNCC1=CC=C(C=C1)N(C)C)=O | C12H18N2O2
